US07101884B2
Step 3: N-tert-butyloxycarbonylindole-2-boronic Acid (1-5)
A stirred solution of indole (8.2 g; 70 mmol) in CH2Cl2 (200 mL) was reacted with di-tert-butyl dicarbonate (18.3 g; 84 mmol) in the presence of N,N-dimethylaminopyridine (430 mg; 3.5 mmol). The reaction mixture was stirred overnight, concentrated in vacuo. The resulting crude product was diluted with tetrahydrofuran (200 mL), cooled to −78° C. and treated with 3M-lithuim diisopropylamide (35 mL; 105 mmol). After 2 h stirring at the same temperature, the reaction mixture was quenched with trimethylborate (23.8 mL; 210 mmol), warmed to room temperature and partitioned between ethyl acetate and 0.3N-HCl. The organic layer was washed with brine, separated, dried (MgSO4) and concentrated in vacuo. Trituation of the solid with hexanes and filtration afforded the desired product as a pale tan solid (1-5); 1H NMR (300 MHz, DMSO-d6) δ 8.18 (bs, 2H), 8.07 (d, 1H, J=8.1 Hz), 7.54 (d, 1H, J=7.5 Hz), 7.26 (t, 1H, J=7.5 Hz), 7.17 (t, 1H, J=7.8 Hz), 6.61 (s, 1H), 1.59 (s, 9H).

reactant | indole | 70 mmol, 8.2 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | di-tert-butyl dicarbonate | 84 mmol, 18.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylamide | 105 mmol, 35 mL | C(C)(C)[N-]C(C)C
reactant | trimethylborate | 210 mmol, 23.8 mL | COB(OC)OC | C3H9BO3
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | N-tert-butyloxycarbonylindole-2-boronic Acid | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)B(O)O | C13H16BNO4
